US07371767B2
Synthesis of 2-(3-bromo-1H-pyrrol-1-yl)pyridine
Bromotrimethylsilane (10.9 mL, 84 mmol) was added to DMSO (5.7 mL, 84 mmol) in MeCN (200 mL) at 0° C. After stirring for 10 min, 2-(1H-pyrrol-1-yl)pyridine (10 g, 70 mmol) in MeCN (50 mL) was added. The reaction mixture was stirred at 0° C. and allowed to reach rt over 3 h. H2O (150 mL) and EtOAc (150 mL) were added and the reaction mixture was shaken, the EtOAc layer was separated and the aqueous layer shaken with EtOAc (3×150 mL). The combine organic layers were dried over Na2SO4 and concentrated to a brown oil. LCMS indicated good conversion to 2-(3-bromo-1H-pyrrol-1-yl)pyridine and this was used without further purification. (MS (ESI) 224 (M+H)+.

reactant | Bromotrimethylsilane | 84 mmol, 10.9 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | DMSO | 84 mmol, 5.7 mL | CS(=O)C | C2H6OS
reactant | 2-(1H-pyrrol-1-yl)pyridine | 70 mmol, 10 g | N1(C=CC=C1)C1=NC=CC=C1 | C9H8N2
reactant | H2O | 150 mL | O | H2O
solvent | MeCN | 200 mL | CC#N | C2H3N
solvent | MeCN | 50 mL | CC#N | C2H3N
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-(3-bromo-1H-pyrrol-1-yl)pyridine | BrC1=CN(C=C1)C1=NC=CC=C1 | C9H7BrN2
